US04923993
Preparation of 5-isopropylpicolinonitrile
83.8 g (0.6 mole) of 1-dimethylamino-1-aza-3-isopropyl-1,3-butadiene and 121.4 g (1.2 moles) of triethylamine are dissolved in 325 ml of acetonitrile. To this solution are added 52.5 g (0.6 mole) of α-chloroacrylonitrile. This solution is heated for 4 hours to 70° C., cooled, filtered, and concentrated by evaporation. The oily residue is dissolved in dioxane and gaseous HCl is introduced into the solution with ice cooling until the pH is 1. After 30 minutes, the batch is concentrated by evaporation and the residue is partitioned between chloroform and 1N NaHCO3. The organic phase is dried and concentrated by evaporation. The residual oil is distilled under a high vacuum at 81°-84° C. The distillate solidifies, affording 60.1 g (68.5%) of the title compound with a melting point of 47°-49° C.

reactant | 1-dimethylamino-1-aza-3-isopropyl-1,3-butadiene | 0.6 mole, 83.8 g | CN(C=CC(=C)N(C)C)C | C8H16N2
reactant | triethylamine | 1.2 moles, 121.4 g | C(C)N(CC)CC | C6H15N
reactant | α-chloroacrylonitrile | 0.6 mole, 52.5 g | ClC(C#N)=C | C3H2ClN
reactant | acetonitrile | 325 ml | C(C)#N | C2H3N
product | 5-isopropylpicolinonitrile | 60.1 g, 68.5% | C(C)(C)C=1C=CC(=NC1)C#N | C9H10N2
